US05827883
198 mg (0,606 mmol) of (R)-2-[(1R,3aR,4S,7aR)-4-(tert-butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-ol was dissolved in pyridine (3 ml) and cooled to 0° C. DMAP (18,5 mg; 0,152 mmol) was added followed by a slow addition of pivaloyl-chloride (97 ml; 0,79 mmol). The mixture was allowed to react for half an hour at 0° C. and half an hour at room temperature. The reaction mixture was poured in a cold aqueous HCl (25%) solution. Extraction with ether, washing with brine, drying over Na2 SO4 and solvent removal gave a dark oil which was purified by column chromatography on silica gel (eluent: n-hexane/ethyl-acetate 97:3) affording 215 mg (86,3%) of 2,2-Dimethyl-propionic acid (R)-2-[(1R,3aR,4S,7aR)-4-(tert-butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propyl ester (J1) as a yellow oil.

reactant | (R)-2-[(1R,3aR,4S,7aR)-4-(tert-butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-ol | 0,606 mmol, 198 mg | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@H](CO)C)(C)C | C19H38O2Si
reactant | pivaloyl-chloride | 0,79 mmol, 97 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | HCl | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0,152 mmol, 18,5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,2-Dimethyl-propionic acid (R)-2-[(1R,3aR,4S,7aR)-4-(tert-butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propyl ester | 215 mg, 86,3% | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@H](COC(C(C)(C)C)=O)C)(C)C | C24H46O3Si
